US04772600
3-[(3-Nitro-2-pyridinyl)amino]propanoic acid ethyl ester hydrochloride [1:1]
The mixture of 2-chloro-3-nitropyridine (25.8 g, 0.16 mole), β-alanine ethyl ester hydrochloride (50 g, 0.33 mole), triethylamine (49.4 g, 0.49 mole), and 300 ml of absolute ethanol was warmed at 50°-55° C. for 4 hr with mechanical stirring. The reaction mixture was evaporated and the residue was partitioned between water and methylene chloride. The water layer was separated and extracted with methylene chloride (2×). The combined methylene chloride extracts were washed with water (2×) and dried over anhydrous sodium sulfate. The filtrate was evaporated to an orange oil (39.2 g). A 2-g sample of the oil was dissolved in acetonitrile acidified with ethereal hydrogen chloride (excess), and scratched to initiate crystallization. The yellow solid was filtered off, washed with ether, and dried under high vacuum at room temperature overnight to give 1.62 g of the title compound, mp 137°-40° C. (sealed tube).

reactant | 2-chloro-3-nitropyridine | 0.16 mole, 25.8 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | β-alanine ethyl ester hydrochloride | 0.33 mole, 50 g | Cl.C(C)OC(CCN)=O
reactant | triethylamine | 0.49 mole, 49.4 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-[(3-Nitro-2-pyridinyl)amino]propanoic acid ethyl ester hydrochloride | 1.62 g | Cl.C(C)OC(CCNC1=NC=CC=C1[N+](=O)[O-])=O | InChI=1S/C10H13N3O4.ClH/c1-2-17-9(14)5-7-12-10-8(13(15)16)4-3-6-11-10;/h3-4,6H,2,5,7H2,1H3,(H,11,12);1H
